US08222245B2
7-(5-{5-Chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride
1,1-Dimethylethyl 7-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 96) (305 mg, 0.629 mmol) in dichloromethane (2 mL) at room temperature was treated with trifluoroacetic acid (1 ml, 12.98 mmol) and the mixture stirred for 1 hr. The reaction mixture was concentrated and the residue partitioned between 2M NaOH and ethyl acetate. The ethyl acetate extract was washed with brine, dried and concentrated to a colourless gum which slowly crystallized, to give the title compound free base (229 mgs).

reactant | 1,1-Dimethylethyl 7-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.629 mmol, 305 mg | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C25H29ClN4O4
reactant | trifluoroacetic acid | 12.98 mmol, 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 7-(5-{5-Chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CCNCC2)C=C1 | InChI=1S/C20H21ClN4O2.ClH/c1-12(2)26-20-17(21)10-16(11-23-20)19-24-18(25-27-19)15-4-3-13-5-7-22-8-6-14(13)9-15;/h3-4,9-12,22H,5-8H2,1-2H3;1H
